US05726172
To a stirred solution of methyl 4-hydroxy-2-methoxybenzoate (11 g, 60 mmol) in THF:H2O (100 mL:10 mL) was added LiOH.H2O (3 g, 71 mmol). The solution was stirred over 24 h and then made slightly acidic (pH 5) with 10% HCl (approx 15 mL). The reaction solution was extracted with CH2Cl2 (3×50 mL). The organic phase was dried (MgSO4) and filtered. The solvent was evaporated under reduced pressure to afford the 4-hydroxy-2-methoxybenzoic acid as a clean white foam.

reactant | methyl 4-hydroxy-2-methoxybenzoate | 60 mmol, 11 g | OC1=CC(=C(C(=O)OC)C=C1)OC | C9H10O4
reactant | H2O | 100 mL | O | H2O
reactant | LiOH.H2O | 71 mmol, 3 g | O[Li].O
reactant | HCl | approx 15 mL | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 4-hydroxy-2-methoxybenzoic acid | OC1=CC(=C(C(=O)O)C=C1)OC | C8H8O4
